US06169107A
The reaction was carried out in a manner similar to Example 186 a) except for using 0.41 g (1.62 mmol) of ethyl 4-chloro-6-hydroxy-1-methyl-2-indolecarboxylate, 0.09 g (2.23 mmol) of 60% sodium hydride, 0.34 g (2.40 mmol) of 1-fluoro-4-nitrobenzene and 5 ml of dimethylformamide. Ethyl 4-chloro-1-methyl-6-(4-nitrophenoxy)-2-indolecarboxylate was thus obtained in an amount of 0.51 g (92.0%).

reactant | ethyl 4-chloro-6-hydroxy-1-methyl-2-indolecarboxylate | 1.62 mmol, 0.41 g | ClC1=C2C=C(N(C2=CC(=C1)O)C)C(=O)OCC | C12H12ClNO3
reactant | sodium hydride | 2.23 mmol, 0.09 g | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 2.40 mmol, 0.34 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-chloro-1-methyl-6-(4-nitrophenoxy)-2-indolecarboxylate | ClC1=C2C=C(N(C2=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C)C(=O)OCC | C18H15ClN2O5
